US07504524B2
A solution of 0.5 g of cyclic keto-ester (3.5 mmol) and 1.21 g of metachloroperbenzoic acid (2 eq.) in 10 ml of dichloromethane is heated under reflux for 48 hours. After returning to ambient temperature, the solvent is eliminated under vacuum. NMR 1H analysis reveals the complete conversion of the ring with 5 members and the formation of mostly 3-ethyl-3-methyl-2,5-dioxane-1,4-dione (spectroscopic yield: 75%). NMR 1H characteristics [4.97 (s, 2H), 1.95 (q, 2H, 3JHH=7.5 Hz), 1.67 (s, 3H), 1.03 (t, 3H, 3JHH=7.5 Hz)].

reactant | metachloroperbenzoic acid | 1.21 g, 2 eq. | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-ethyl-3-methyl-2,5-dioxane-1,4-dione | yield: 75% | C(C)C1(OC(COC1=O)=O)C | C7H10O4
